US20010003749A1
Preparation of final title compound 1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine
To a slurry of 13.72 g (0.05310 mol) of 4-cyclohexyl-3-methyl-4-oxo-3-phenylbutyraldehyde and 11.57 g (0.05058 mol) of 1-(2′-methoxyphenyl)piperazine hydrochloride in 391 mL of CH2Cl2 was added 9.7 mL of AcOH to make the reaction mixture homogeneous. To the reaction solution was added slowly 14.63 g (0.06904 mol) of NaBH(OAc)3. After stirring over 4 days (reaction should be complete within 2-5 h), 200 mL of 1N HCl (aq) was added to quench reaction mixture (pH=1). The mixture was extracted with 200 mL of CH2Cl2. The CH2Cl2 extract was washed again with 200 mL of 1N HCl (aq) (pH=1). Both HCl (aq) washes were combined and saved. The organic extract was washed with 200 mL of iN NaOH (aq) (pH=14). An emulsion formed and was broken up by addition of 100 mL of water and 100 mL of MTBE. The organic phase was washed again with 200 mL of 1N NaOH (aq) (pH=14) and washed with 200 mL of 25% NaCl (aq), dried over MgSO4, gravity filtered and concentrated to afford 22.74 g of crude title compound as an amber oil. HPLC analysis against pure standard showed that crude product oil has 13.66 g (61.71%) of title compound.

reactant | 4-cyclohexyl-3-methyl-4-oxo-3-phenylbutyraldehyde | 0.05310 mol, 13.72 g | C1(CCCCC1)C(C(CC=O)(C1=CC=CC=C1)C)=O | C17H22O2
reactant | 1-(2′-methoxyphenyl)piperazine hydrochloride | 0.05058 mol, 11.57 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | NaBH(OAc)3 | 0.06904 mol, 14.63 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | CH2Cl2 | 391 mL | C(Cl)Cl | CH2Cl2
solvent | MTBE | 100 mL | CC(C)(C)OC | C5H12O
solvent | water | 100 mL | O | H2O
solvent | AcOH | 9.7 mL | CC(=O)O | C2H4O2
product | 1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)butyl]piperazine | 22.74 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C)(C1=CC=CC=C1)C(=O)C1CCCCC1 | C28H38N2O2
